US07550544B2
(4-Bromo-2-methyl-1H-inden-1-yl) (cyclopentadienyl)dimethylsilane
To a solution of 1.32 g (20.0 mmol) of freshly distilled cyclopentadiene in 120 ml of ether, 8.00 ml of 2.5 M (20.0 mmol) nBuLi in hexanes was added dropwise, while vigorously stirring, at 0° C. This mixture was stirred for 2 h at room temperature, and then 6.03 g (20.0 mmol) of (4-bromo-2-methyl-1H-inden-1-yl)(chloro)dimethylsilane was added dropwise over 30 min at −80° C. The resulting mixture was stirred for 1 h at this temperature, for 12 h at room temperature, and then 100 ml of water was added. The organic layer was separated. The aqueous layer was extracted with 2×100 ml of dichlorodimethylsilane. The combined organic fractions were dried over Na2SO4 and evaporated to dryness. The product was isolated using flash-chromatography on Silica Gel 60 (40-63 um, d 30 mm, 1 300 mm, eluent: hexanes). Yield 5.50 g (83%) of colorless oil of a mixture of isomers I, II, and III.

reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | nBuLi | 20.0 mmol, 2.5 M | [Li]CCCC
reactant | (4-bromo-2-methyl-1H-inden-1-yl)(chloro)dimethylsilane | 20.0 mmol, 6.03 g | BrC1=C2C=C(C(C2=CC=C1)[Si](C)(C)Cl)C | C12H14BrClSi
reactant | water | 100 ml | O | H2O
solvent | ether | 120 ml | CCOCC | C4H10O
product | (4-Bromo-2-methyl-1H-inden-1-yl) (cyclopentadienyl)dimethylsilane | BrC1=C2C=C(C(C2=CC=C1)[Si](C)(C)C1C=CC=C1)C | C17H19BrSi
